US05744488
Methyl 4-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate
Hydrogenation of benzyl (E)-3-[3-(1H-imidazol-1-ylmethyl)-1-(2-methoxycarbonylethyl)-2-methyl-1H-indol-4-yl]-2-propenoate (1.40 g) in the presence of 10% palladium on carbon(0.15 g) according to the method of Preparation 21 gave the title compound (0.82 g), m.p. 136°-138° C.

reactant | benzyl (E)-3-[3-(1H-imidazol-1-ylmethyl)-1-(2-methoxycarbonylethyl)-2-methyl-1H-indol-4-yl]-2-propenoate | 1.40 g | N1(C=NC=C1)CC1=C(N(C2=CC=CC(=C12)/C=C/C(=O)OCC1=CC=CC=C1)CCC(=O)OC)C | C27H27N3O4
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
product | Methyl 4-(2-carboxyethyl)-3-(1H-imidazol-1-ylmethyl)-2-methyl-1H-indole-1-propanoate | 0.82 g | C(=O)(O)CCC1=C2C(=C(N(C2=CC=C1)CCC(=O)OC)C)CN1C=NC=C1 | C20H23N3O4
